US06645396B2
50 g (0,36 mol) of cinnamic alcohol are dissolved in 180 ml of dry toluene. 20 g (0,36 mol) of KOH are added to the solution, and the resulting mixture is kept under stirring for one hour at room temperature. During this phase, potassium cinnamate is obtained. Then, a solution prepared starting from 18 g (0,10 mol) of 2,4,6-trichloro-s-triazine in 150 ml of toluene is added, allowing to react at room temperature for further 90 hours under stirring.

reactant | cinnamic alcohol | 0,36 mol, 50 g | C=1C=CC(=CC1)/C=C/CO | C9H10O
reactant | KOH | 0,36 mol, 20 g | [OH-].[K+]
solvent | toluene | 180 ml | C1(=CC=CC=C1)C | C7H8
product | potassium cinnamate | C(C=CC1=CC=CC=C1)(=O)[O-].[K+] | InChI=1S/C9H8O2.K/c10-9(11)7-6-8-4-2-1-3-5-8;/h1-7H,(H,10,11);/q;+1/p-1
